US05916430
Electrosynthesis of 2,3-epoxy-1-methoxynonane
Electrolyte: 300 g (2.113 moles) of non-1-en-3-ol, 60 g of NaBr, 60 g of water, and 2,580 g of methanol

reactant | non-1-en-3-ol | 2.113 moles, 300 g | C=CC(CCCCCC)O | C9H18O
reactant | NaBr | 60 g | [Na+].[Br-]
reactant | water | 60 g | O | H2O
reactant | methanol | 2,580 g | CO | CH4O
product | 2,3-epoxy-1-methoxynonane | O1C(COC)C1CCCCCC | C10H20O2
